US04250174
A suspension of 2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine (600 mg., 2 mmoles), iodine (420 mg., 3.2 mmoles) and potassium iodate (180 mg., 0.8 mmole) in 60% aqueous acetic acid (50 ml.) containing 2 ml. of concentrated sulfuric acid is stirred at room temperature for 48 hours. The solution is diluted with ice water and the pH adjusted to 8 with aqueous sodium bicarbonate. The reaction mixture is extracted with dichloromethane and the dried extracts are evaporated in vacuo to yield 3-iodo-2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine.

reactant | 2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine | 2 mmoles, 600 mg | COC(=O)NC=1N=C2N(C=C(C=C2)SC2=CC=CC=C2)C1 | C15H13N3O2S
reactant | iodine | 3.2 mmoles, 420 mg | II | I2
reactant | potassium iodate | 0.8 mmole, 180 mg | I(=O)(=O)[O-].[K+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-iodo-2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine | IC1=C(N=C2N1C=C(C=C2)SC2=CC=CC=C2)NC(=O)OC | C15H12IN3O2S
